US07399759B2
7-(2-Pyridyl)-6-heptenoic acid
(5-Carboxypentyl)triphenyl phosphonium (13.7 g, 30.0 mmol) was suspended in tetrahydrofuran (50 ml), and potassium tert-butoxide (6.3 g, 56.0 mmol) was added thereto under ice cooling condition. The mixture was stirred for 1 hr. Successively, a solution of 2-pyridinecarbaldehyde (2.0 g, 18.7 mmol) in tetrahydrofuran (10 ml) was added to the mixture, and the mixture was stirred at 0° C. for 3 hrs. The reaction mixture was combined with 2 N aqueous sodium hydroxide solution (50 ml), washed with diethyl ether, neutralized with 6 N HCl and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The solvent was evaporated, and the residue was subjected to a silica gel (100 g) column chromatography. The fractions eluted with hexane-ethyl acetate (1:1, v/v) were collected and concentrated to give Z-form of the titled compound (2.0 g, 52%). And the fractions eluted with hexane-ethyl acetate (1:2, v/v) were collected and concentrated to give a mixture of E-form and Z-form of the titled compound (0.97 g, 25%)

reactant | (5-Carboxypentyl)triphenyl phosphonium | 30.0 mmol, 13.7 g | C(=O)(O)CCCCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 56.0 mmol, 6.3 g | CC(C)([O-])C.[K+]
reactant | 2-pyridinecarbaldehyde | 18.7 mmol, 2.0 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | sodium hydroxide | 2 N, 50 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-(2-Pyridyl)-6-heptenoic acid | 2.0 g, 52% | N1=C(C=CC=C1)C=CCCCCC(=O)O | C12H15NO2
